US07700641B2
Synthesis of 1′-(tetrahydro-2H-pyran-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.21, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, and 4-(bromomethyl)tetrahydro-2H-pyran to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (25%) as a white solid: mp 142-144° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.34-6.85 (m, 4H), 6.50 (s, 1H), 6.08 (s, 1H), 5.85 (ABq, 2H), 4.76 (ABq, 2H), 4.18-3.86 (m, 2H), 3.63 (ddd, 2H), 3.34 (t, 2H), 2.38-1.92 (m, 1H), 1.70-1.36 (m, 4H); MS (ES+) m/z 380.3 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | BrCC1CCOCC1 | C6H11BrO
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-(tetrahydro-2H-pyran-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | O1CCC(CC1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H21NO5
